### PR TITLE
[Merged by Bors] - refactor: hypothesis naming in custom recursors

### PR DESCRIPTION
**Pull request by agjftucker**
I have renamed hypotheses in `WithBot.recBotCoe`, `WithTop.recTopCoe` and `Finset.cons_induction` on the basis that rather than
```lean
cases f₁ using WithBot.recBotCoe with
| h₁ => …
| h₂ f₁ => …
```
we would prefer to be able to write
```lean
cases f₁ using WithBot.recBotCoe with
| bot => …
| coe f₁ => …
```
and rather than
```lean
induction s using cons_induction with
| h₁ => …
| @h₂ c s hc ih => …
```
we would prefer
```lean
induction s using cons_induction with
| empty => …
| @cons c t hc ih => …
````
I also tidied up some of inf' stuff in Finset.Lattice by using named arguments to specify the dual type instead of `@`s and `_ _ _`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Basic.lean [hunk 1]
```diff
@@ -1174,14 +1174,14 @@ theorem ssubset_insert (h : a ∉ s) : s ⊂ insert a s :=
 #align finset.ssubset_insert Finset.ssubset_insert
 
 @[elab_as_elim]
-theorem cons_induction {α : Type _} {p : Finset α → Prop} (h₁ : p ∅)
-    (h₂ : ∀ ⦃a : α⦄ {s : Finset α} (h : a ∉ s), p s → p (cons a s h)) : ∀ s, p s
+theorem cons_induction {α : Type _} {p : Finset α → Prop} (base : p ∅)
+    (ind : ∀ ⦃a : α⦄ {s : Finset α} (h : a ∉ s), p s → p (cons a s h)) : ∀ s, p s
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:1178]: Wouldn't `empty` and `cons` be better names here?

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:1178]: I imagine we want to give `induction` a few lines below the same treatment.

**Review by eric-wieser — COMMENTED** [review]
It's probably worth asking on Zulip whether we want to make this kind of refactor before the port is complete. It's certainly an improvement, but I can only see it making the port harder not easier.

File: Mathlib/Data/Finset/Basic.lean (hunk 1 above)
Comment (agjftucker) [reply Mathlib/Data/Finset/Basic.lean:1178]: I tried those first! But it caused a name clash with the normal `Finset.cons` in the body of `cons_induction`. Nothing that can't be resolved with the appropriate qualifiers but it started to smell a bit fishy. Would you like me to go ahead with that?

**Comment by agjftucker** [comment]
> It's probably worth asking on Zulip whether we want to make this kind of refactor before the port is complete. It's certainly an improvement, but I can only see it making the port harder not easier.

I'll do that tomorrow. As far as I know there's no mechanism by which such name changes could leak out to change anything about the port but perhaps I'm missing something.

**Comment by semorrison** [comment]
@agjftucker what's the status of this? Can we revive it?

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -1204,9 +1206,9 @@ theorem cons_induction_on {α : Type _} {p : Finset α → Prop} (s : Finset α)
 #align finset.cons_induction_on Finset.cons_induction_on
 
 @[elab_as_elim]
-protected theorem induction {α : Type _} {p : Finset α → Prop} [DecidableEq α] (h₁ : p ∅)
-    (h₂ : ∀ ⦃a : α⦄ {s : Finset α}, a ∉ s → p s → p (insert a s)) : ∀ s, p s :=
-  cons_induction h₁ fun a s ha => (s.cons_eq_insert a ha).symm ▸ h₂ ha
+protected theorem induction {α : Type _} {p : Finset α → Prop} [DecidableEq α] (empty : p ∅)
+    (cons : ∀ ⦃a : α⦄ {s : Finset α}, a ∉ s → p s → p (insert a s)) : ∀ s, p s :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:1210]: This one should be called `insert` not `cons`

File: Mathlib/Data/Finset/Lattice.lean [hunk 3]
```diff
@@ -568,35 +568,27 @@ theorem comp_sup_eq_sup_comp_of_is_total [SemilatticeSup β] [OrderBot β] (g :
...
-      cases h' with
-      | inl h => exact ⟨c, mem_cons.2 (Or.inl rfl), h⟩
-      | inr h =>
-        rcases ih h with ⟨b, hb, hle⟩
-        exact ⟨b, mem_cons.2 (Or.inr hb), hle⟩
-  · rintro ⟨b, hb, hle⟩
-    exact le_trans hle (le_sup hb)
+  · induction s using cons_induction with
+    | empty => exact (absurd · (not_le_of_lt ha))
+    | @cons c t hc ih =>
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Lattice.lean:573]: The `@` here surprises me a bit. Are you allowed to write `cons {c t} hc ih` or similar instead?

**Review by eric-wieser — APPROVED** [review]
I'm generally happy with this, modulo some nits.

The only way which this can break porting is for code that uses the `case` tactic; and those situations should be few in number and trivial to fix during porting.

I think searching for `elab_as_elim` will find a _lot_ more places we can apply this sort of change, but that doesn't need to be in this PR.

File: Mathlib/Data/Finset/Lattice.lean (hunk 3 above)
Comment (agjftucker) [reply Mathlib/Data/Finset/Lattice.lean:573]: Hmm no Lean doesn't seem to like that here. I think I've seen it work with `fun` though

**Comment by eric-wieser** [comment]
bors d+
